US07491748B2
3-(4-(pyrazol-1-ylmethyl)-2-hydroxymethylphenyl)propanoic acid methyl ester
To a solution of 3-(4-(pyrazol-1-ylmethyl)-2-carboxyphenyl)propanoic acid methyl ester (600 mg) in anhydrous THF (8.0 ml) was added dropwise a solution of borane-tetrahydrofuran complex in THF (3.2 ml) at 0° C. and the mixture was stirred at room temperature for 2.5 hours. To the mixture was added a solution of borane-tetrahyrofuran complex in THF (3.5 ml) and the mixture was stirred for 1 hour. To the reaction solution was added ice and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give the title compound (420 mg) having the following physical data.

reactant | 3-(4-(pyrazol-1-ylmethyl)-2-carboxyphenyl)propanoic acid methyl ester | 600 mg | COC(CCC1=C(C=C(C=C1)CN1N=CC=C1)C(=O)O)=O | C15H16N2O4
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
solvent | THF | 3.2 ml | C1CCOC1 | C4H8O
solvent | THF | 3.5 ml | C1CCOC1 | C4H8O
product | 3-(4-(pyrazol-1-ylmethyl)-2-hydroxymethylphenyl)propanoic acid methyl ester | 420 mg | COC(CCC1=C(C=C(C=C1)CN1N=CC=C1)CO)=O | C15H18N2O3
